US05576322
2-[N-(3-Ethoxycarbonylpropyl)-N-methylamino]-4-(3,4-methylenedioxybenzyl)amino-6-cyanoquinazoline
858 mg of ethyl N-methyl-4-aminobutyrate hydrochloride, 238 mg of triethylamine, 4 ml of 2-propanol and 2 ml of N,N-dimethylformamide were added to 400 mg of 2-chloro-4-(3,4-methylenedioxybenzyl)amino-6-cyanoquinazoline. The obtained mixture was refluxed for 1 hour, cooled to room temperature and filtered. The filtrate was distilled under a reduced pressure to remove the solvent and the residue was recrystallized (from ethanol/water) to give 410 mg of the title compound.

reactant | ethyl N-methyl-4-aminobutyrate hydrochloride | 858 mg | Cl.CNCCCC(=O)OCC
reactant | triethylamine | 238 mg | C(C)N(CC)CC | C6H15N
reactant | 2-propanol | 4 ml | CC(C)O | C3H8O
reactant | 2-chloro-4-(3,4-methylenedioxybenzyl)amino-6-cyanoquinazoline | 400 mg | ClC1=NC2=CC=C(C=C2C(=N1)NCC1=CC2=C(C=C1)OCO2)C#N | C17H11ClN4O2
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 2-[N-(3-Ethoxycarbonylpropyl)-N-methylamino]-4-(3,4-methylenedioxybenzyl)amino-6-cyanoquinazoline | 410 mg | C(C)OC(=O)CCCN(C)C1=NC2=CC=C(C=C2C(=N1)NCC1=CC2=C(C=C1)OCO2)C#N | C24H25N5O4
